US08470947B2
Under nitrogen atmosphere, sodium hydride dispersed in mineral oil (0.54 g, 22.32 mmol as sodium hydride) was washed with hexane to remove mineral oil, and thereafter tetrahydrofuran (35 ml) was added. The temperature of the mixture was elevated to 50° C. and aniline (0.14 g, 1.49 mmol) was added. The mixture was stirred at 50° C. for 1 hour. A solution obtained by dissolving 1,2,3,4-tetramethylcyclopenta-1,3-diene (2.00 g, 16.37 mmol) in tetrahydrofuran (9 ml) was added dropwise to this, and the mixture was stirred at 50° C. for 2 hours and cooled to 20° C. To the solution, a solution obtained by dissolving chlorotriphenylsilane (4.39 g, 14.88 mmol) in toluene (9 ml) was added dropwise, and the mixture was stirred at 35° C. overnight. The resultant mixture was added dropwise at 0° C. to a mixture of a 10% sodium hydrogen carbonate solution (22 ml) and a 10% sodium carbonate solution (22 ml). Toluene (22 ml) was added to separate an organic phase. The organic phase was dried over sodium sulfate and filtrated, and the solvent was concentrated under reduced pressure to obtain 1-triphenylsilyl-2,3,4,5-tetramethylcyclopentadiene (3.76 g, yield 66.3%).

reactant | sodium hydride | [H-].[Na+]
reactant | aniline | 1.49 mmol, 0.14 g | NC1=CC=CC=C1 | C6H7N
reactant | 1,2,3,4-tetramethylcyclopenta-1,3-diene | 16.37 mmol, 2.00 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | chlorotriphenylsilane | 14.88 mmol, 4.39 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | sodium hydrogen carbonate | 22 ml | C(O)([O-])=O.[Na+]
reactant | sodium carbonate | 22 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
product | 1-triphenylsilyl-2,3,4,5-tetramethylcyclopentadiene | 3.76 g, yield 66.3% | C1(=CC=CC=C1)[Si](C1=C(C(=C(C1C)C)C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28Si
